US04102902
Following the same procedure as set forth above, (+)-6,6-dimethyl-2,2-diacetoxy-3-norpinene was reacted with 5-(1,1-dimethylheptyl)resorcinol in the presence of boron trifluoride diethyl etherate to afford (-)-trans-1-hydroxy-3-(1,1-dimethylheptyl)-6,6-dimethyl-6,6a,7,8,10,10a-hexahydro-9H-dibenzo[b,d]pyran-9-one.

reactant | (+)-6,6-dimethyl-2,2-diacetoxy-3-norpinene | CC1(C2C=CC(C1C2)(OC(C)=O)OC(C)=O)C | C13H18O4
reactant | 5-(1,1-dimethylheptyl)resorcinol | CC(CCCCCC)(C)C=1C=C(C=C(O)C1)O | C15H24O2
reactant | boron trifluoride diethyl etherate | B(F)(F)F.CCOCC
product | (-)-trans-1-hydroxy-3-(1,1-dimethylheptyl)-6,6-dimethyl-6,6a,7,8,10,10a-hexahydro-9H-dibenzo[b,d]pyran-9-one | OC1=CC(=CC=2OC([C@H]3[C@H](C21)CC(CC3)=O)(C)C)C(CCCCCC)(C)C | C24H36O3
